US06316466B1
To a solution of 5-amino-1-(4-fluorophenyl)-4-[3-{2(S),3-dihydroxypropoxy} benzoyl]pyrazole (0.6 g, 1.6 mmol) in 30 ml acetone was added zinc chloride (0.34 g, 2.6 mmol). The reaction mixture was stirred and heated at reflux. After 13 hours, the reaction mixture was concentrated to dryness and the product was purified by flash column chromatography on silica gel using 40% EtOAc/Hexane as elutent. The product was stirred with 1:1 ether/hexane and 125 mg of 5-amino-1-(4-fluorophenyl) 4-{3-[(2,2-dimethyl-1,3-dioxolan-5(S)-yl)methoxy]benzoyl}pyrazole was obtained.

reactant | 5-amino-1-(4-fluorophenyl)-4-[3-{2(S),3-dihydroxypropoxy} benzoyl]pyrazole | 1.6 mmol, 0.6 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OC[C@H](CO)O)=O | C19H18FN3O4
reactant | acetone | 30 ml | CC(=O)C | C3H6O
catalyst | zinc chloride | 2.6 mmol, 0.34 g | [Cl-].[Zn+2].[Cl-]
product | 5-amino-1-(4-fluorophenyl) 4-{3-[(2,2-dimethyl-1,3-dioxolan-5(S)-yl)methoxy]benzoyl}pyrazole | 125 mg | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OC[C@H]1COC(O1)(C)C)=O | C22H22FN3O4
